US06194425B1
Using the general method of Example 73 Part A and Part B, N4-(3-butoxypropyl)[1,5]naphthyridine-3,4-diamine (3.7 g, 13.5 mmol) was reacted with valeryl chloride (1.7 mL, 14.3 mmol) and the resulting amide intermediate was cyclized to provide 2.9 g of 1-(3-butoxypropyl)-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridine as a colorless oil. A small portion was purified by flash chromatography (silica gel eluting with ethyl acetate) to provide a pure sample as a white powder, m.p. 56.5-57.5° C. Analysis: Calculated for C20H28N4O: % C, 70.56; % H, 8.29; % N, 16.46; Found: % C, 70.48; % H, 8.25; % N, 16.61. 1H NMR (300 MHz, CDCl3): δ 9.32 (s, 1H), 8.90 (dd, J=4.3,1.6 Hz, 1H), 8.49 (dd, J=8.5,1.6 Hz, 1H), 7.57 (dd, J=8.5,4.3 Hz, 1H), 4.94 (t, J=7.0 Hz, 2H), 3.45-3.39 (m, 4H), 3.04 (t, J=7.9 Hz, 2H), 2.26 (pentet, J=6.1 Hz, 2H), 2.01-1.91 (m, 2H), 1.62-1.48 (m, 4H), 1.45-1.33 (m, 2H), 1.03 (t, J=7.3 Hz, 3H), 0.94 (t, J=7.3 Hz, 3H).

reactant | N4-(3-butoxypropyl)[1,5]naphthyridine-3,4-diamine | 13.5 mmol, 3.7 g | C(CCC)OCCCNC1=C(C=NC2=CC=CN=C12)N | C15H22N4O
reactant | valeryl chloride | 14.3 mmol, 1.7 mL | C(CCCC)(=O)Cl | C5H9ClO
product | 1-(3-butoxypropyl)-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridine | 2.9 g | C(CCC)OCCCN1C(=NC=2C=NC=3C=CC=NC3C21)CCCC | C20H28N4O
